US05334597
Step 1 (E)-Ethyl 3-(2-pyridyl)-propenoate
An 80% dipersion of sodium hydride in oil (1.31 g, 43.5 mmol, 1.15 eq) was added portionwise (~10 min) to a solution of triethylphosphonoacetate (8.26 mL, 41.6 mmol, 1.1 eq) in dry THF (160 mL) at 0° C. After 20 min., a solution of 2-pyridinecarboxaldehyde (4.05 g, 37.8 mmol) in dry THF (80 mL) was added dropwise (20 min.) at 0° C. Dry DMSO (20 mL) was added to dissolve solids formed during the addition. After 15 min., at 0° C., the mixture was poured into a cold saturated solution of NH4Cl. The layers were separated and the aqueous phase was extracted with EtOAc (3x). The organic phase was concentrated and combined with the EtOAc extracts. Conventional aqueous workup, followed by chromatography on silica using EtOAc/hexane (1:4→1:3) as eluent afforded 5.86 g of the title compound.

reactant | sodium hydride | [H-].[Na+]
reactant | 2-pyridinecarboxaldehyde | 37.8 mmol, 4.05 g | N1=C(C=CC=C1)C=O | C6H5NO
reactant | DMSO | 20 mL | CS(=O)C | C2H6OS
reactant | NH4Cl | [NH4+].[Cl-]
reactant | THF | 160 mL | C1CCOC1 | C4H8O
reactant | THF | 80 mL | C1CCOC1 | C4H8O
product | (E)-Ethyl 3-(2-pyridyl)-propenoate | 5.86 g | N1=C(C=CC=C1)/C=C/C(=O)OCC | C10H11NO2
